US20010027196A1
Following the method of Sansebastiano et al. (Il Farmaco 1993, 48, 335), to a stirred solution of 2.44 g (10.3 mmol) 3-dimethylamino-2-(furan-2-carbonyl)-acrylic acid ethyl ester and 2.26 g (18.5 mmol) guanidine nitrate in 20 ml DMF was added 1.51 g (18.5 mmol) sodium acetate and the mixture heated at 90° C. for 36 h. The reaction mixture was then partitioned between ether and water. The phases were separated and the aqueous phase extracted twice more with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. The residue was recrystallised from ether/ethyl acetate/hexane to afford 669 mg (28%) 2-amino-4-furan-2-yl-pyrimidine-5-carboxylic acid ethyl ester as a white crystalline solid. Chromatography (ethyl acetate/hexane 2/1) of the mother liquor afforded a further 150 mg (6%) product. ES-MS m/e (%): 234 (M+H+, 100), 206 ([M—C2H4]+, 35), 188 ([M+H-EtOH]+, 42).

reactant | 3-dimethylamino-2-(furan-2-carbonyl)-acrylic acid ethyl ester | 10.3 mmol, 2.44 g | C(C)OC(C(=CN(C)C)C(=O)C=1OC=CC1)=O | C12H15NO4
reactant | guanidine nitrate | 18.5 mmol, 2.26 g | [N+](=O)(O)[O-].NC(=N)N
reactant | sodium acetate | 18.5 mmol, 1.51 g | C(C)(=O)[O-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-amino-4-furan-2-yl-pyrimidine-5-carboxylic acid ethyl ester | 669 mg, 28% | C(C)OC(=O)C=1C(=NC(=NC1)N)C=1OC=CC1 | C11H11N3O3
